US07557127B2
To a mixture of ethyl (dimethoxyphosphoryl)(fluoro)acetate (1.46 g) and magnesium bromide (1.33 g) in THF (20 ml) was added dropwise to a Et3N (0.92 ml) with stirring at 0-15° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at same condition for an hour. A solution of 6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloronicotinaldehyde (1.36 g) in THF (10 ml) solution was added the above mixture and resultant mixture was stirred at 0-15° C. for 4 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4— The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-n-hexane (3:7). The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl (2Z)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloro-3-pyridinyl)-2-fluoroacrylate (1.42 g).

reactant | ethyl (dimethoxyphosphoryl)(fluoro)acetate | 1.46 g | COP(=O)(OC)C(C(=O)OCC)F | C6H12FO5P
reactant | magnesium bromide | 1.33 g | [Br-].[Mg+2].[Br-]
reactant | Et3N | 0.92 ml | CCN(CC)CC | C6H15N
reactant | 6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloronicotinaldehyde | 1.36 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=NC=C(C=O)C=C1Cl | C17H18ClN3O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | AcOEt-H2O | C(=O)(C)OCC.O
product | ethyl (2Z)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloro-3-pyridinyl)-2-fluoroacrylate | 1.42 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)\C=C(\C(=O)OCC)/F)Cl | C21H23ClFN3O2
